US07105544B2
N-[6-(1-{3-[(DIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)-2-PYRIDINYL]-2-METHYLPROPANAMIDE
Example 6 was prepared from diphenylacetyl chloride and N-{6-[1-(3-aminopropyl)-4-piperidinyl]-2-pyridinyl}-2-methylpropanamide according to the procedures described in Scheme 8: 1H NMR (400 MHz, CDCl3) δ 8.07 (d, 1H, J=8.0 Hz), 7.71–7.63 (m, 3H), 7.42–7.23 (m, 10H), 6.89 (d, 1H, J=7.6 Hz), 4.96 (s, 1H), 3.41 (dd, 2H, J=5.6, 7.6 Hz), 3.00 (d, 2H, J=11.6 Hz), 2.60 (m, 1H), 2.47 (t, 2H, J=6.4 Hz), 2.45 (m, 1H), 2.06–2.01 (m, 2H), 1.89–1.64 (m, 6H), 1.13 (d, 6H, J=6.8 Hz); ESMS m/e: 499.3 (M+H)+.

reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | N-{6-[1-(3-aminopropyl)-4-piperidinyl]-2-pyridinyl}-2-methylpropanamide | NCCCN1CCC(CC1)C1=CC=CC(=N1)NC(C(C)C)=O | C17H28N4O
product | N-[6-(1-{3-[(DIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)-2-PYRIDINYL]-2-METHYLPROPANAMIDE | C1(=CC=CC=C1)C(C(=O)NCCCN1CCC(CC1)C1=CC=CC(=N1)NC(C(C)C)=O)C1=CC=CC=C1 | C31H38N4O2
